US04279637
PREPARATION OF ETHYL [4-(3,5-DINITROPHENOXY)PHENYL]CARBAMATE
[4-(3,5-Dinitrophenoxy)phenyl]benzenamine (0.1 mole) and pyridine (50 ml) are charged into a glass reaction vessel fitted with a mechanical stirrer and thermometer and are cooled to about 5° C. Ethyl chloroformate (0.125 mole) is added, with stirring, at about 5° C. Stirring is continued for a period of about 30 minutes at about 5° C., then for an additional 16 hours at room temperature. The mixture is then washed with 2 portions of water (50 ml), dried and the solvent is then removed to yield the desired product ethyl [4-(3,5-dinitrophenoxy)phenyl]carbamate.

reactant | [4-(3,5-Dinitrophenoxy)phenyl]benzenamine | 0.1 mole | [N+](=O)([O-])C=1C=C(OC2=CC=C(C=C2)C2=C(C=CC=C2)N)C=C(C1)[N+](=O)[O-] | C18H13N3O5
reactant | Ethyl chloroformate | 0.125 mole | ClC(=O)OCC | C3H5ClO2
reactant | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | ethyl [4-(3,5-dinitrophenoxy)phenyl]carbamate | [N+](=O)([O-])C=1C=C(OC2=CC=C(C=C2)NC(OCC)=O)C=C(C1)[N+](=O)[O-] | C15H13N3O7
